US07435815B2
[(5-Methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid
prepared by reaction of 5-methyl-pyridine-2-sulfonic acid p-tolylamide with tert-butyl bromoacetate

reactant | 5-methyl-pyridine-2-sulfonic acid p-tolylamide | C1(=CC=C(C=C1)NS(=O)(=O)C1=NC=C(C=C1)C)C | C13H14N2O2S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(5-Methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | CC=1C=CC(=NC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C15H16N2O4S
